US07563791B2
Step 3: Preparation of N-{4-[4-amino-6-(3-hydroxypropyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl }-N′-[2-fluoro-5-(trifluoromethyl)phenyl]urea
To a solution of THF (6 mL) was added ethyl 3-(4-amino-5-{4-[({[2-fluoro-5-(trifluoromethyl)phenyl]amino }carbonyl)amino]phenyl}pyrrolo[2,1-f][1,2,4]triazin-6-yl)propanoate (62 mg, 0.12 mmol) followed by DIBAL (0.6 mL, 0.6 mmol, 1.0M solution in toluene). The reaction was stirred at rt for 1 h. Additional DIBAL (1.2 mL, 1.2 mmol, 1.0M solution in toluene) was added and stirred at rt for an additional 1 h. The reaction was diluted with EtOAc and quenched with saturated aqueous Rochelle's salt. Reaction was extracted with EtOAc (4×). The combined organic layers were dried (Na2SO4), filtered, and evaporated to dryness to afford a crude yellow solid (56 mg, 98%) that was used directly in the next step without further purification. 1H-NMR (CD3OD) δ 8.62 (d, J=7.6 Hz, 1H), 7.74 (s, 1H), 7.61 (d, J=7.6 Hz, 2H), 7.52 (s, 1H), 7.38 to 7.31 (m, 4H), 3.50 (t, J=7.1 Hz, 2H), 2.61 (t, J=7.8 Hz, 2H), 1.77 to 1.65 (m, 2H); MS [M+H]+=489; LCMS RT=2.50 min.

reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(4-amino-5-{4-[({[2-fluoro-5-(trifluoromethyl)phenyl]amino }carbonyl)amino]phenyl}pyrrolo[2,1-f][1,2,4]triazin-6-yl)propanoate | 0.12 mmol, 62 mg | NC1=NC=NN2C1=C(C(=C2)CCC(=O)OCC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C25H22F4N6O3
reactant | DIBAL | 0.6 mmol, 1.0M, 0.6 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 1.2 mmol, 1.0M, 1.2 mL | CC(C)C[AlH]CC(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{4-[4-amino-6-(3-hydroxypropyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl }-N′-[2-fluoro-5-(trifluoromethyl)phenyl]urea | 56 mg, 98% | NC1=NC=NN2C1=C(C(=C2)CCCO)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C23H20F4N6O2
